US08470859B2
5-chloro-2-imino-1-[3-(methylsulfonyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrochloride
To a solution of 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide (0.5 g) in methanol (5 ml) was added a solution (3 ml) of 1-[3-(methylsulfonyl)phenyl]methanamine hydrochloride (1.4 g) and triethylamine (0.9 ml) in ethanol at room temperature, and the mixture was stirred for 24 hr. The reaction solvent was evaporated under reduced pressure, DMSO (5 ml) was added, and the mixture was stirred at 80° C. for 4 hr. The solvent was evaporated under reduced pressure and partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=4/1-1/0). 2N Hydrochloric acid-methanol solution (1 ml) was added to the obtained yellow oil at room temperature, and the precipitated crystals were filtered and recrystallized to give the title compound (78 mg).

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 0.5 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-[3-(methylsulfonyl)phenyl]methanamine hydrochloride | 3 ml, 1.4 g | Cl.CS(=O)(=O)C=1C=C(C=CC1)CN
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-2-imino-1-[3-(methylsulfonyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrochloride | 78 mg | Cl.ClC=1C=C(C(N(C1)CC1=CC(=CC=C1)S(=O)(=O)C)=N)C(=O)N | InChI=1S/C14H14ClN3O3S.ClH/c1-22(20,21)11-4-2-3-9(5-11)7-18-8-10(15)6-12(13(18)16)14(17)19;/h2-6,8,16H,7H2,1H3,(H2,17,19);1H
